US08603975B2
To a solution of tert-butyl 3-(hydroxymethyl)azetidine-1-carboxylate (1.0 g) in DMF (20 ml) was added NaH (235 mg; 60% oil suspension) under nitrogen atmosphere, and the mixture was stirred for 30 minutes at room temperature. MeI (665 μl) was added to the mixture, and the whole was stirred for 2 hours. Water was added to the mixture, and the whole was extracted with EtOAc. The extract was washed with water and brine and dried over MgSO4. Concentration under reduced pressure gave a residue, which was purified with silica gel chromatography eluting with n-hexane:EtOAc=5:1 to give tert-butyl 3-(methoxymethyl)azetidine-1-carboxylate (1.04 g).

reactant | tert-butyl 3-(hydroxymethyl)azetidine-1-carboxylate | 1.0 g | OCC1CN(C1)C(=O)OC(C)(C)C | C9H17NO3
reactant | NaH | 235 mg | [H-].[Na+]
reactant | MeI | 665 μl | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert-butyl 3-(methoxymethyl)azetidine-1-carboxylate | 1.04 g | COCC1CN(C1)C(=O)OC(C)(C)C | C10H19NO3
